US07842688B2
b) tert-Butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-[3-(3-methoxypropionylamino)benzyloxy]piperidine-1-carboxylate
Analogously to Example 116b, 0.610 g of tert-butyl 3-(3-aminobenzyloxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate and 0.270 g of 3-methoxypropionyl chloride are reacted. The title compound is obtained as a beige oil. Rf=0.40 (1:1 EtOAc-heptane); Rt=5.56.

reactant | tert-butyl 3-(3-aminobenzyloxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 0.610 g | NC=1C=C(COC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OC(C)(C)C)C=CC1 | C34H44N2O6
reactant | 3-methoxypropionyl chloride | 0.270 g | COCCC(=O)Cl | C4H7ClO2
product | tert-Butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-[3-(3-methoxypropionylamino)benzyloxy]piperidine-1-carboxylate | COC1=C(COCCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OC(C)(C)C)OCC2=CC(=CC=C2)NC(CCOC)=O)C=CC=C1 | C38H50N2O8
